US09302989B2
N-(4-fluorobenzyl)-5-isocyanato-N-(4-(pyridin-3-yl)benzyl)thiazol-2-amine
To a 50 mL round-bottomed flask was added 2-((4-fluorobenzyl)(4-(pyridin-3-yl)benzyl)amino)thiazole-5-carboxylic acid (850 mg, 2.026 mmol) in dichloromethane (10.100 ml) and the solution was cooled to 0° C. Oxalyl chloride (0.266 ml, 3.04 mmol) and dimethylformamide (0.016 ml, 0.203 mmol) were added and some bubbling occurred. The solution was warmed to room temperature and stirred for 1 hour. The mixture was cooled to 0° C., and trimethylsilyl azide (0.538 ml, 4.05 mmol) was added. The mixture was warmed to room temperature, stirred for 30 minutes and concentrated under vacuum. Toluene (5 ml) was added and the mixture was heated to 95° C. for 2.5 hours. The toluene was removed and the resulting solid was triturated/sonicated with ether and filtered with ether washes to provide the title compound.

reactant | 2-((4-fluorobenzyl)(4-(pyridin-3-yl)benzyl)amino)thiazole-5-carboxylic acid | 2.026 mmol, 850 mg | FC1=CC=C(CN(C=2SC(=CN2)C(=O)O)CC2=CC=C(C=C2)C=2C=NC=CC2)C=C1 | C23H18FN3O2S
reactant | Oxalyl chloride | 3.04 mmol, 0.266 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | 0.203 mmol, 0.016 ml | CN(C=O)C | C3H7NO
reactant | trimethylsilyl azide | 4.05 mmol, 0.538 ml | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
solvent | dichloromethane | 10.100 ml | ClCCl | CH2Cl2
product | N-(4-fluorobenzyl)-5-isocyanato-N-(4-(pyridin-3-yl)benzyl)thiazol-2-amine | FC1=CC=C(CN(C=2SC(=CN2)N=C=O)CC2=CC=C(C=C2)C=2C=NC=CC2)C=C1 | C23H17FN4OS
